US20010016207A1
A. FMOC-1-aminocyclohexane carboxylic acid
The title compound is prepared from 1-aminocyclohexane carboxylic acid (700 mmol), FMOC-chloride (770 mmol), Diisopropyl-ethylamine (770 mmol) and 770 ml NaOH 1N in 950 ml dioxan by conventional methods. Mp. 180-182° C.; Rf=0.21 (CH2Cl2/MeOH=95:5)

reactant | 1-aminocyclohexane carboxylic acid | 700 mmol | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | FMOC-chloride | 770 mmol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | Diisopropyl-ethylamine | 770 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 1N, 770 ml | [OH-].[Na+]
solvent | dioxan | 950 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | FMOC-1-aminocyclohexane carboxylic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(CCCC1)(C(=O)O)N | C22H23NO4
